US07183418B2
2-{5′-[6-(tert-Butyl-dimethyl-silanyloxy)-hexyl]-[2,2′]bithiophenyl-5-yl}-4,4,5,5-tetramethyl-[1,3,2}dioxaborolane
To an ice-cooled solution of (6-[2,2′]bithiophenyl-5-yl-hexyloxy)-tert-butyl-dimethylsilane (10 g, 19.76 mmol) in anhydrous THF (150 ml) was added dropwise a solution of n-butyllithium (2.5 M in hexanes, 7.91 ml, 19.76 mmol) under nitrogen, with stirring. After 2 h, pinacol boronate (4.04 g, 21.72 mmol) was added. The ice bath was removed, and the resultant mixture was stirred overnight at room temperature. The reaction was quenched with the addition of saturated aqueous NH4Cl and the mixture extracted with ethyl acetate (3×70 ml). The combined organic extracts were washed with brine, dried over magnesium sulphate, and evaporated under reduced pressure. The residue was purified by column chromatography on silica, eluting with petroleum ether/ethyl (9:1), to give the product as a blue oil (9.52 g, 72%). 1H NMR (300 MHz, CDCl3): δ (ppm) 7.46 (d, J=3.6 Hz, 1 H, Ar—H), 7.10 (d, J=3.6 Hz, 1H, Ar—H), 6.99 (d, J=3.4 Hz, 1H, Ar—H), 6.62 (d, J=3.4 Hz, 1H, Ar—H), 3.56 (t, J=6.4 Hz, 2H, OCH2), 2.73 (t, J=7.4 Hz, 2H, ArCH2), 1.21–1.70 (m, 20H, CH2 and CH3), 0.86 (s, 9H, CH3), 0.01 (s, 6H, CH3); 13C NMR (75 MHz, CDCl3): δ (ppm) 145.9 (2×quat.), 144.8 (quat.), 138.0 (CH.), 134.7 (quat.), 125.0 (CH), 124.2 (CH); 124.1 (CH), 84.1 (quat.), 63.2 (OCH2), 32.8 (CH2), 31.6 (CH2), 30.2 (CH2), 28.9 (CH2), 26.0 (CH3) 25.6 (CH2), 24.8 (CH3),18.4 (quat.), −5.2 (CH3); MS (m/e): 506 (M+, 32%), 331 (31), 305 (31), 279 (100), 261 (32), 205 (51), 83 (71).

reactant | (6-[2,2′]bithiophenyl-5-yl-hexyloxy)-tert-butyl-dimethylsilane | 19.76 mmol, 10 g | S1C(=CC=C1CCCCCCO[Si](C)(C)C(C)(C)C)C=1SC=CC1 | C20H32OS2Si
reactant | n-butyllithium | 19.76 mmol, 2.5 M, 7.91 ml | C(CCC)[Li]
reactant | pinacol boronate | 21.72 mmol, 4.04 g | B(O)O.OC(C)(C)C(C)(C)O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 2-{5′-[6-(tert-Butyl-dimethyl-silanyloxy)-hexyl]-[2,2′]bithiophenyl-5-yl}-4,4,5,5-tetramethyl-[1,3,2}dioxaborolane | 9.52 g, 72% | C(C)(C)(C)[Si](OCCCCCCC1=CC=C(S1)C=1SC(=CC1)B1OC(C(O1)(C)C)(C)C)(C)C | C26H43BO3S2Si
